datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]([H:19])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:24]>>[C:0]([C:1]([C:2]1=[C:3]([H:17])[C:4]([H:18])([H:24])[C:5]([H:19])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14],14.68
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11])[H:4],33.723
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])=[C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([C:8]([H:24])([H:25])[H:26])[C:9]1([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:14])([H:12])[H:13],77.9479
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:3])[H:4].[H:5][C:9]([H:10])([H:11])[H:12],0.0
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3],397.22896
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5]>>[H:4][O:5].[O:0]=[C:1]([O:2])[H:3],41.33792
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:19])[H:20])([C:15](=[C:16]([H:22])[H:23])[H:21])[C:17](=[C:18]([H:25])[H:26])[H:24])[H:5],47.3629
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22](=[C:23]([H:25])[H:26])[H:24]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:22](=[C:23]([H:25])[H:26])[H:24])([H:10])([H:11])[H:12],16.7778
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],51.3795
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8]([O:9][H:11])[H:10]>>[C:0]([C:1]([O:2][H:7])([H:6])[H:10])([H:3])([H:4])[H:5].[O:8][O:9][H:11],7.3132
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([S:11][H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])([S:11][H:14])[H:13],105.228
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],5.0208
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:8])([H:6])[H:7],55.4798
[C:4]([C:5](=[C:6]([H:11])[H:12])[C:7]([O:8][H:15])([H:13])[H:14])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5](=[C:6]([H:11])[H:12])[C:7]([O:8][H:15])([H:13])[H:14])([H:9])[H:10].[O:0][O:1][H:3],56.81872
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([H:15])([H:16])[H:17])[H:8])([H:6])[H:7],34.2251
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[O:9][O:10]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:3])[H:4].[H:5][O:9][O:10],14.300912
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[O:6],-2.9288
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:4])[H:14])[C:5]([O:6][O:7])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]=[O:4])[C:5]([O:6][O:7][H:14])([H:15])[H:16])([H:8])([H:9])[H:10],64.26624
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:19])[H:9])([H:7])[H:8],8.95376
[C:0]1=[C:1]([H:9])[C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]2([H:15])[C:8]1([H:16])[H:17]>>[C:0]1([H:9])=[C:1][C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]2([H:15])[C:8]1([H:16])[H:17],234.057144
